US05070087
α,α-Bis(4-fluorophenyl)-1-[3-[4-(1-hydroxyethyl)-2-methoxyphenoxy]propyl]-4-piperidineacetamide
Using the procedure of Example 20, 1-[3-(4-acetyl-2-methoxyphenoxy)propyl]-α,α-bis(4-fluorophenyl)-4-piperidineacetamide is reduced with sodium borohydride to give the title compound.

reactant | 1-[3-(4-acetyl-2-methoxyphenoxy)propyl]-α,α-bis(4-fluorophenyl)-4-piperidineacetamide | C(C)(=O)C1=CC(=C(OCCCN2CCC(CC2)C(C(=O)N)(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1)OC | C31H34F2N2O4
reactant | sodium borohydride | [BH4-].[Na+]
product | α,α-Bis(4-fluorophenyl)-1-[3-[4-(1-hydroxyethyl)-2-methoxyphenoxy]propyl]-4-piperidineacetamide | FC1=CC=C(C=C1)C(C(=O)N)(C1CCN(CC1)CCCOC1=C(C=C(C=C1)C(C)O)OC)C1=CC=C(C=C1)F | C31H36F2N2O4
